US06900244B2
Step 1 3-Phenyl-2-({4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-amino)propanenitrile
To a mixture of phenylacetaldehyde (0.7 mL, 5.8 mmol) and trimethylsilyl cyanide 0.8 mL, 6.0 mmol) in CH2Cl2 (2 mL) was added 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (Oakwood, 1.6 g, 6.1 mmol). The resulting mixture was stirred at ambient temperature over 18 h. The reaction mixture was diluted with CH2Cl2 and water. The organics were washed several times with water, dried (MgSO4), and concentrated in vacuo. Purification by flash chromatography (8:1 hexanes/EtOAc) afforded the title compound as a pale yellow solid (1.4 g, 63%). MS (ES+) m/z 389 (MH+).

reactant | phenylacetaldehyde | 5.8 mmol, 0.7 mL | C1(=CC=CC=C1)CC=O | C8H8O
reactant | trimethylsilyl cyanide | 6.0 mmol, 0.8 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 6.1 mmol, 1.6 g | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-Phenyl-2-({4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-amino)propanenitrile | 1.4 g, 63% | C1(=CC=CC=C1)CC(C#N)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C18H14F6N2O
